US05958942
3,4-Dihydro-2-methyl-1,3,7b-triazacyclopent[cd]inden-4-one
To a suspension of 610 mg (15.3 mmol) of 60% sodium hydride (dispersion in oil) in 5 ml of DMF was added, while stirring at room temperature, a solution of 1.67 g (7.62 mmol) of 3-amino-5-ethoxycarbonyl-2-methyl-imidazo[1,2-a]pyridine in 5 ml of DMF. The mixture was stirred for 10 minutes, then for 30 minutes at 100° C. After cooling, the reaction mixture was poured into ice-water, and washed with chloroform. To the aqueous layer was added 6N-HCl to adjust the pH to 5-6. The resulting precipitates were collected by filtration, washed with water and diethyl ether, successively, and dried to afford 357 mg of the desired compound (27.0%, a brown solid).

reactant | sodium hydride | 15.3 mmol, 610 mg | [H-].[Na+]
reactant | 3-amino-5-ethoxycarbonyl-2-methyl-imidazo[1,2-a]pyridine | 7.62 mmol, 1.67 g | NC1=C(N=C2N1C(=CC=C2)C(=O)OCC)C | C11H13N3O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3,4-Dihydro-2-methyl-1,3,7b-triazacyclopent[cd]inden-4-one | 357 mg | CC=1N=C2C=CC=C3N2C1NC3=O | C9H7N3O
